US05198451
A solution of 2-(3-(2-methylphenyl)-3-phenyl-2-propen-1-yloxy)ethanol (3.4 g, 12.5 mmol) in dry THF (30 ml) kept under a nitrogen atmosphere was cooled to 10° C. and a solution of n-butyllithium in hexanes (5.5 ml, 2.5 M) was added dropwise. The reaction mixture was stirred for 0.5 h at room temperature and p-toluenesulphonyl chloride (2.6 g, 13.8 mmol) was added. The mixture was stirred at room temperature for 1.5 h. Ethyl (R)-3-piperidinecarboxylate (2.9 g, 18.8 mmol) and potassium carbonate (2.6 g, 18.8 mmol) were added and the mixture was heated at reflux temperature for 18 h. The cooled reaction mixture was poured into ice water (200 ml) and extracted with ethyl acetate (2×100 ml). The combined organic extracts was washed with a 10% sodium citrate buffer solution (2×100 ml, pH 6). The organic phase was extracted with a 5% citric acid solution (4×75 ml) and the combined acidic aqueous extracts was washed with toluene (50 ml). To the acidic aqueous solution was added a 4 N sodium hydroxide solution until pH 9 and this solution was immediately extracted with ethyl acetate (2×100 ml). The combined organic extracts was dried over sodium sulphate and the solvent evaporated in vacuo to give 2.3 g (45%) of (R)-N-(2-(2-(2-methylphenyl)-3-phenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester as an oil. TLC: rf=0.23 (SiO2 ; n-heptane/THF=7:3).

reactant | 2-(3-(2-methylphenyl)-3-phenyl-2-propen-1-yloxy)ethanol | 12.5 mmol, 3.4 g | CC1=C(C=CC=C1)C(=CCOCCO)C1=CC=CC=C1 | C18H20O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | p-toluenesulphonyl chloride | 13.8 mmol, 2.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Ethyl (R)-3-piperidinecarboxylate | 18.8 mmol, 2.9 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 18.8 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (R)-N-(2-(2-(2-methylphenyl)-3-phenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | 2.3 g, 45% | C(C)OC(=O)[C@H]1CN(CCC1)CCOCC(=CC1=CC=CC=C1)C1=C(C=CC=C1)C | C26H33NO3
